US07271261B2
6-Bromo-3-nitro-pyridin-2-ylamine. To a glass pressure vessel containing 6-methoxy-3-nitro-pyridin-2-ylamine (5.0 g, 29.5 mmol) was added 30% hydrogen bromide/acetic acid (60 mL). The vessel was sealed, and the contents were heated to 60° C. for 24 h. The reaction mixture was cooled, and the solvent was removed in vacuo giving 6.8 g (>95%) of crude 6-amino-5-nitro-pyridin-2-ol hydrobromide (HPLC: Rt=5.46). This material (2.0 g, 8.5 mmol) was taken up in toluene (30 mL), followed by phosphorus pentoxide (2.4 g, 17.0 mmol) and tetrabutyl ammonium bromide (3.2 g, 9.7 mmol). The mixture was heated to reflux for 4 h. The reaction mixture was cooled to 0° C., diluted with saturated NaHCO3, and extracted with ethyl acetate (3×100 mL). The combined organics were washed with water (100 mL) and dried (Na2SO4) to afford 1.18 g (64%) of 6-bromo-3-nitro-pyridin-2-ylamine.

reactant | 6-Bromo-3-nitro-pyridin-2-ylamine | BrC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | 6-methoxy-3-nitro-pyridin-2-ylamine | 29.5 mmol, 5.0 g | COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O3
solvent | hydrogen bromide acetic acid | 60 mL | Br.C(C)(=O)O
product | 6-amino-5-nitro-pyridin-2-ol hydrobromide | 6.8 g, >95% | Br.NC1=C(C=CC(=N1)O)[N+](=O)[O-] | InChI=1S/C5H5N3O3.BrH/c6-5-3(8(10)11)1-2-4(9)7-5;/h1-2H,(H3,6,7,9);1H
